US08193236B2
(1-Acetyl-5-methyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester
To a solution of (5-methyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester (4.90 g, 17.2 mmol) in DMF (25 mL) is added a suspension of 60% NaH in mineral oil (824 mg, 20.6 mmol). The reaction mixture is stirred for 1 h at room temperature. After cooling to 0° C. acetylchloride (1.84 mL, 25.8 mmol) is added dropwise. The resulting reaction mixture is stirred for 1 h at room temperature, quenched with an aqueous saturated NH4Cl solution and partitioned between water and EtOAc. The layers are separated and the aqueous phase is extracted with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4, filtered and concentrated at reduced pressure to afford a brown oil. Purification by flash column chromatography (silica gel, cyclohexane/EtOAc 95:5) affords the title compound as a yellow solid (2.89 g, 8.83 mmol, 51%). 1H NMR (400 MHz, CDCl3, 298 K): δ=7.75 (d, J=8.8 Hz, 1H), 7.39 (s, 1H), 7.28 (d, J=8.8 Hz, 1H), 4.17 (q, J=7.1 Hz, 2H), 3.91 (q, J=2.2 Hz, 2H), 2.75 (s, 3H), 2.46 (s, 3H), 1.24 (t, J=7.1 Hz, 3H). MS (ES+): 3.45 (M(C16H16F3NO3)+H2O)+.

reactant | (5-methyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester | 17.2 mmol, 4.90 g | C(C)OC(CC1=C(NC2=CC=C(C=C12)C)C(F)(F)F)=O | C14H14F3NO2
reactant | NaH | [H-].[Na+]
reactant | acetylchloride | 25.8 mmol, 1.84 mL | C(C)(=O)Cl | C2H3ClO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | (1-Acetyl-5-methyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester | 8.83 mmol, 2.89 g, 51% | C(C)OC(CC1=C(N(C2=CC=C(C=C12)C)C(C)=O)C(F)(F)F)=O | C16H16F3NO3
